US07544688B2
2,4-Dichloropyrimidine (25 g, 0.16 moles) and 2,2-dimethyl-propylamine (25 ml, 0.21 moles) are dissolved in 250 ml of THF and K2CO3 (33.1 g, 0.24 mmoles) is added at rt. The mixture is refluxed at rt for 8 h. Water is added and the organic layer is extracted with AcOEt, washed with brine, dried over magnesum sulfate and concentrated. The crude product is purified by silica gel column chromatography to give 22 g of desired (2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine in 67% yield.

reactant | 2,4-Dichloropyrimidine | 0.16 moles, 25 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 2,2-dimethyl-propylamine | 0.21 moles, 25 ml | CC(CN)(C)C | C5H13N
reactant | K2CO3 | 0.24 mmoles, 33.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | (2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine | 22 g, 67% yield | ClC1=NC=CC(=N1)NCC(C)(C)C | C9H14ClN3
